US08754085B2
Step 1: (R)-Ethyl 7-(8-acetoxy-2,3-diphenyl-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoate
To a solution of (R)-2,3-diphenyl-5,6,7,8-tetrahydropyrido[2,3-b]pyrazin-8-yl acetate (Intermediate HBR) in DCE (7 ml) was added ethyl 7-oxoheptanoate (71.8 mg, 0.417 mmol) followed by sodium triacetoxyborohydride (236 mg, 1.112 mmol). The reaction mixture was left to stir at room temperature overnight under an atmosphere of nitrogen. A further portion of ethyl 7-oxoheptanoate (6 equivalents) was added and the reaction mixture was left to stir at RT for 4 days. The mixture was diluted with water (20 ml) and extracted with EtOAc (3×20 ml). The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo. The resulting crude product was purified by chromatography on silica eluting with 0-40% EtOAc/iso-hexane to afford the title compound;

reactant | (R)-2,3-diphenyl-5,6,7,8-tetrahydropyrido[2,3-b]pyrazin-8-yl acetate | C(C)(=O)O[C@@H]1CCNC2=NC(=C(N=C21)C2=CC=CC=C2)C2=CC=CC=C2 | C21H19N3O2
reactant | ethyl 7-oxoheptanoate | 0.417 mmol, 71.8 mg | O=CCCCCCC(=O)OCC | C9H16O3
reactant | sodium triacetoxyborohydride | 1.112 mmol, 236 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ethyl 7-oxoheptanoate | 6 equivalents | O=CCCCCCC(=O)OCC | C9H16O3
solvent | DCE | 7 ml | ClCCCl | C2H4Cl2
solvent | water | 20 ml | O | H2O
product | (R)-Ethyl 7-(8-acetoxy-2,3-diphenyl-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoate | C(C)(=O)O[C@@H]1CCN(C2=NC(=C(N=C21)C2=CC=CC=C2)C2=CC=CC=C2)CCCCCCC(=O)OCC | C30H35N3O4
